US08609680B2
Preparation of (2-Methylimidazo[2,1-b][1,3]thiazol-6-yl)acetic acid hydrochloride (SM-1ad)
Ethyl(2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate (151.3 g, 0.67 mol) was dissolved in 10% aqueous HCl (435 mL) and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature and was concentrated in vacuo to give a yellow oil. Ethanol (100 mL) and diethylether (200 mL) were added and the resulting white precipitate was collected by filtration and dried in a vacuum oven overnight to give 144.3 g (93%) of final product, (2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetic acid hydrochloride). MS (ES+) 197.1 (M+H)+. 1H NMR (CD3OD) δ 2.48 (s, 3H), 3.88 (s, 2H), 7.81 (s, 1H), 7.85 (s, 1H).

reactant | Ethyl(2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate | 0.67 mol, 151.3 g | C(C)OC(CC=1N=C2SC(=CN2C1)C)=O | C10H12N2O2S
reactant | Ethanol | 100 mL | C(C)O | C2H6O
reactant | diethylether | 200 mL | C(C)OCC | C4H10O
reactant | HCl | 435 mL | Cl | ClH
product | (2-Methylimidazo[2,1-b][1,3]thiazol-6-yl)acetic acid hydrochloride | 144.3 g, 93% | Cl.CC1=CN2C(S1)=NC(=C2)CC(=O)O | InChI=1S/C8H8N2O2S.ClH/c1-5-3-10-4-6(2-7(11)12)9-8(10)13-5;/h3-4H,2H2,1H3,(H,11,12);1H
